US05861421
Preparation of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(3-carbomethoxyphenylethynyl)cyclohexan-1-one
A solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-carbomethoxyphenylethynyl)cyclohexane (0.060 g, 0.12 mmol) in tetrahydrofuran (5 mL) containing 3N hydrochloric acid (0.60 mL) under an argon atmosphere was heated at 55°-60° C. for 2 h. The cooled reaction mixture was partitioned between ice cold dilute aqueous sodium carbonate solution and ethyl acetate. The organic phase was washed with water, saturated brine, was dried over sodium sulfate, and was concentrated in vacuo. The residue was chromatographed (silica gel), eluting with 15% ethyl acetate/hexanes, to afford a resin. Anal. (C28H30O5.1/4 H2O) calcd: C 74.56, H 6.82, found: C 74.43, H 6.80. 1H-NMR (400 MHz, CDCl3) δ 8.15 (s, 1H), 8.00 (d-d, J=1.5 Hz;J=6.6 Hz, 1H), 7.65 (d-d, J=1.3 Hz, J=7.7 Hz, 1H), 7.43 (t, J=7.7 Hz, 1H), 7.21 (d, J=2.1, 1H), 7.12 (d-d, J=2.0 Hz, J=8.5 Hz, 1H), 6.87 (d, J=8.5 Hz,1H), 4.81 (m, 1H), 3.94 (s, 3H), 3.86 (s, 3H), 3.04 (d-t, J=6.0 Hz, J=14.2, 2H), 2.50 (d,br, J=14.8, 2H), 2.4-2.2 (m, 4H), 2.0-1.5 (m).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-carbomethoxyphenylethynyl)cyclohexane | 0.12 mmol, 0.060 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC(=CC=C2)C(=O)OC | C30H34O6
reactant | hydrochloric acid | 3N, 0.60 mL | Cl | ClH
reactant | H2O | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(3-carbomethoxyphenylethynyl)cyclohexan-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=CC(=CC=C1)C(=O)OC | C28H30O5
